Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Menorrhagia
 
Major Surgical or Invasive Procedure:
Total vaginal hysterectomy

 
History of Present Illness:
Pt is a ___ yo G4P4 with hx NSVD at term x 4, with a long history 
of heavy painful menses. She has always had regular periods 
monthly which last about 8 days and are very heavy. She has to 
change protection about once every 1.5 hrs for several days of 
each period, and the cramping is intense. She has a near 
constant sense of pelvic pressure which is very uncomfortable. 
She uses high dose ibuprofen which gives her some minimal relief 
which is short lived. 

In the past she tried OCP's for over ___ year which did not change 
her symptoms, and also has tried Depo Provera without 
improvement. 

She has had numerous ultrasounds over the years, most recent in 
___ at ___ which showed mildly enlarged uterus- 10 x 6 x 7 
cm, volume about 250 ml, with myometrium thickened and mottled 
suggestive of adenomyosis. She has one fibroid in the posterior 
intramural position, 18 mm x 20 mm. Endometrium thickness was 11 
mm on cycle day 18. 

She is premenopausal and denies any perimenopausal symptoms 
including hot flashes, vaginal dryness, or night sweats. She has 
very occasional (perhaps once every ___ months) small volume 
urine leakage with stress activities, no urge symptoms. She 
denies any bulge or prolapse symptoms. 

She was recently evaluated and found to have a UTI with >100K 
GBS bacteriuria, and was treated with oral antibiotics. Her 
urinary symptoms have completely resolved.

She was also treated for viral bronchitis last week with a 
medrol dose pack and inhaled steroids.  No antibiotics. 

 
Past Medical History:
LMP: ___ 
Menses: Regular q month, 8 days, heavy flow 
Intermenstrual bleeding: none 
Dysmenorrhea: severe 
Contraception: tubal ligation 
Sexual history: sexually active, mutually monogamous, male 
partner and not concerned about risk of STDs 
Past gyn history: 
Negative except as described above. 
Has had regular paps but has not had one in many years. Had one 
performed in early ___ which was normal.
Denies any other gyn history including STD's. 

Obstetric History 
G4 P4 T4 P0 TAB0 SAB0 E0 M0 L4 - all vaginal deliveries at full 
term 

PMH: intermittent HTN- no current meds, spontaneous retinal 
detachment, cataracts 

PSH: LSC BTL ___ 
Umbilical port hernia repair ___- NO MESH- op note in ___ 
system 
Scleral buckle ___ 
Corneal laser ___ 
Corneal laser ___ 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On admission:
Height as of ___: 4' ___ m). 
Weight as of ___: 185 lb(83.915 kg). 
General Appearance: well appearing and overweight, pleasant and 
conversant, good historian 
Abdomen: no masses, no palpable organomegaly, no hernia and 
moderate tenderness diffusely across pelvis. 
Lymph nodes: no inguinal adenopathy 
Pelvic: 
External Genitalia: no lesions or inflammation, normal 
escutcheon and well estrogenized 
Vagina: no lesions, well estrogenized and no inflammation 
Pelvic Supports: cystocele mild and uterine descensus minimal at 
baseline but mobile with tenaculum application 
Cervix: no lesions, no cervical motion tenderness and 
multiparous appearance 
Uterus: 10 week sized, bulky, mobile, moderately tender, smooth, 
reasonable descensus
Adnexa: no palpable mass, no tenderness 
Anus and Perineum: normal 
Rectal: rectal exam not done 
 
Brief Hospital Course:
Ms. ___ was admitted to the GYN service post-operatively.  
Please see operative report for full surgical details.  She had 
an uncomplicated post-operative course and was discharged home 
on post-op day 1.
 
Medications on Admission:
None
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*35 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Menorrhagia, likely adenomyosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding greater than spotting.   
* abnormal vaginal discharge  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks.   
* You may eat a regular diet.   
* No bath tubs for 6 weeks.  
  
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___